US06420385B1
2-(((S)-2-Acetamido-3-phenylpropyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone:
A solution of 2-(((S)-2-amino-3-phenylpropyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone (25 mg, 0.058 mmol) and acetic anhydride (200 ml)-in methanol (2 ml) was kept at room temperature for 1 h. Evaporation followed by chromatography of the resultant product on a column of silica gel (10% methanol/dichloromethane) provided the title compound.

reactant | 2-(((S)-2-amino-3-phenylpropyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | 0.058 mmol, 25 mg | N[C@H](CNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)CC1=CC=CC=C1 | C25H24FN5O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 2 ml | CO | CH4O
product | 2-(((S)-2-Acetamido-3-phenylpropyl)-amino)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | C(C)(=O)N[C@H](CNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)CC1=CC=CC=C1 | C27H26FN5O2
